* SPICE Netlist
* Voltage Source
VDD 8 0 DC
* Current Source
IIN 8 5 DC
* NMOS Transistors
? Missing component
M2 6 10 9 9 NMOS
* PMOS Transistors
M3 4 5 7 7 PMOS
M4 5 3 4 4 PMOS
* Capacitor
C1 5 10
* End of Netlist
